Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Percocet / Fish Containing Products
 
Attending: ___.
 
Chief Complaint:
anemia 
 
Major Surgical or Invasive Procedure:
EGD ___

 
History of Present Illness:
___ w/ hx MI status post stenting, mesenteric ischemia status 
post aorto SMA stenting, recent admission for painless hematuria 
and anemia after accidental overdose on Coumadin recently 
started on xarelto presents with worsening shortness of breath 
improved with prbcs. Over ___ days she has felt more short and 
DOE woth movingl  She denied ___ bleeding.  She notes 
new bilateral abdominal pain.  She denies fever,
chills, nausea, vomiting, diarrhea.  She denies CP.

Per ED, she had a syncopal episode while climbing up stairs but 
was caught and did not fall. She was seen at PCP today found to 
be anemic with hemoglobin 5, seen at ___ where she was found to 
be anemic and given protonix and 2 U prbc with improvement in 
symptoms. Denies abdominal pain. Per transfer history brown 
"scantly" heme + stool.  ED repeated rectal exam and was heme 
negative but they recorded it as a limited exam.
 
Past Medical History:
- Coronary artery disease (per OMR had myocardial infarction in 
___ without intervention)
- Peripheral arterial disease with ___ angioplasty and stent in 
___, repeat angioplasty and stenting of the ___ as well as 
angioplasty and stenting of the SMA with ex lap and small bowel 
resection in ___, balloon angioplasty of SMA stent in ___, 
aorta celiac/SMA bypass later in ___, ex lap with LOA and 
thrombectomy of SMA bypass with saphenous vein patch of SMA 
bypass in ___
- Ischemic colitis / Mesenteric ischemia
- Cholecystitis s/p percutaneous cholecystostomy tube
- Hysterectomy
- COPD
 
Social History:
___
Family History:
-Mother: ___
-Brother: ___
 
Physical ___:
-Vitals: reviewed 
-General: NAD, resting comfortably in bed. Appears more alert, 
interactive, and comfortable than yesterday. 
-HENT: atraumatic, normocephalic, moist mucus membranes 
-Eyes: PERRL, EOMi
-Pulmonary: no respiratory distress 
-GI: soft, right lower quadrant tenderness overall improved from 
yesterday, bowel sounds present 
-GU: no foley 
-MSK: No pedal edema, no joint swelling 
-Skin: No rashes, ulcerations, or jaundice
-Neuro: no focal neurological deficits, CN ___
-Psych: appropriate mood and affect
 
Pertinent Results:
ADMISSION LABS
___ 07:40PM BLOOD WBC-5.1 RBC-2.73* Hgb-7.9* Hct-25.2* 
MCV-92 MCH-28.9 MCHC-31.3* RDW-20.0* RDWSD-66.1* Plt ___
___ 07:40PM BLOOD Neuts-54.7 ___ Monos-10.2 
Eos-0.8* Baso-0.4 NRBC-1.6* Im ___ AbsNeut-2.79 
AbsLymp-1.71 AbsMono-0.52 AbsEos-0.04 AbsBaso-0.02
___ 07:40PM BLOOD ___ PTT-27.0 ___
___ 07:45AM BLOOD Ret Aut-5.0* Abs Ret-0.14*
___ 07:40PM BLOOD Glucose-93 UreaN-9 Creat-0.6 Na-141 K-4.3 
Cl-106 HCO3-22 AnGap-13
___ 07:45AM BLOOD ALT-8 AST-12 LD(LDH)-157 AlkPhos-74 
TotBili-0.9 DirBili-0.4* IndBili-0.5
___ 07:40PM BLOOD Calcium-7.8* Phos-3.8 Mg-1.8
___ 07:45AM BLOOD calTIBC-293 ___ Ferritn-16 TRF-225
___ 07:52PM BLOOD Lactate-1.3

DISCHARGE LABS
N/A

IMAGING/STUDIES
-CT ABDOMEN/PELVIS ___: 1. No retroperitoneal hematoma or 
evidence of other acute abdominopelvic pathology. 2. Unchanged 
left adrenal adenoma. 3. Cholelithiasis.

-CTA ABDOMEN/PELVIS W/ contrast ___: -No evidence of active 
extravasation or alternative explanation for the patient's acute 
anemia. -Chronically occluded SMA and ___ stents. No evidence of 
bowel ischemia. -Ill-defined hypodensities scattered throughout 
the spleen may suggest splenic
infarct or perfusional anomaly. -Stable left adrenal gland 
lesion, likely an adenoma. -Gallstones without evidence of 
cholecystitis.

-KUB ___: Nonspecific, nonobstructive bowel gas pattern.

-KUB ___: Gaseous distension of both large and small bowel 
loops extending to the rectum
most consistent with ileus.
 
Brief Hospital Course:
___ h/o CAD, mesenteric ischemia s/p aorto SMA stenting, PAD w/ 
multiple angioplasties/stentings, ischemic colitis/Mesenteric 
ischemia who was seen by her PCP after near syncope found to 
have anemia hemoglobin 5.  She was first sent to ___ 
___ where she received 2Units of PRBC and was then 
transferred to ___ for higher level care.

1. Acute on chronic normocytic anemia h/o hematuria and GI bleed
-Hemoglobin at ___'s office and ___ prior to 
admission was ___ s/p 2Units PRBC. Heme occult positive with 
reports of ___ prior to admission.  Patient with recent 
hospitalization w/ hematuria while on coumadin w/ accidental 
overdose w/ supra therapeutic INR 14.  She was switched to 
xarelto with resolution of hematuria. CTA w/out evidence of 
retroperitoneal or GI bleed. Labs not consistent w/hemolysis. 
Labs also not consistent with pancytopenia suggesting marrow 
pathology. During last admission there were investigations into 
anemia without any etiology.  Last colonoscopy and EGD ___ 
grossly normal other than transverse colon stricture. She is due 
for repeat colonoscopy ___. GI consulted with plans for 
colonoscopy and EGD.  EGD ___ grossly normal.   Hemoglobin 
was stable after initial transfusion.  Aspirin and xarelto were 
held. 

2. Abdominal pain  
-Despite h/o ischemic/mesenteric ischemia, a CTA at time of 
admission was without evidence of ischemia and her lactate was 
normal.  KUB noted illeus as likely cause of pain.  However, on 
___ AM she developed acute abdominal pain and was found to 
have lactate of 10.5. CTA was obtained that showed new acute 
occlusion of the SMA limb of the supra-celiac aorta- SMA bypass. 
Discussions were had with the patient regarding her goals of 
care and she wanted everything done at this time.  She was 
urgently taken to the operating room and underwent angiogram, 
which confirmed an occluded graft (with both limbs occluded).  
She then underwent thrombectomy and placement of a TPA lysis 
catheter.  Overnight, her lactate continued to rise, and she was 
hemodynamically unstable, requiring pressors and increasing vent 
settings.  Early in the morning, she was taken again to the 
operating room for a repeat angiogram, this time with both 
vascular surgery and the acute care general surgery service.  
She underwent an exploratory laparotomy, extensive lysis of 
adhesions, arteriotomy of the previous vein patch in her Dacron 
graft, and open thrombectomy.  Although Doppler confirmed 
re-established inflow, there was evidence of poor back bleeding, 
and suspected distal thrombosis that could not be reached.  A 
segment of small bowel was found to have a perforation, and as a 
result, that small section of bowel was resected.  Her remaining 
bowel appeared dusky.  She was left in discontinuity with an 
abdominal wound vac and plans for ongoing resuscitation.  At the 
time of transfer from the operating room to the ICU, she was 
requiring three pressors for support and her lactate had risen 
to 19.  Her metabolic acidosis worsened and she continued to 
require high dose pressors.  

3. Multiorgan failure and septic shock
By ___, ___ had developed evidence of end organ ischemia 
involving multiple organs.  She had renal failure (became 
anuric), liver failure (elevated liver enzymes) and poor 
perfusion (upper and lower extremities mottled with weak 
pulses).  Her family was informed of her grim prognosis.  The 
likely cause was septic shock.  Ongoing discussions were had 
regarding goals of care.  Ultimately, the family and HCP decided 
to change her code status from full code to do not resuscitate 
on ___.  They then decided to pursue comfort measures only 
and ___ expired quickly thereafter.  She was pronounced dead at 
2:58pm on ___.  The family declined an autopsy and the 
decision was made not to call the medical examiner.

3. Syncope/near syncope h/o orthostatic hypotension
-Clinical presentation consistent with symptomatic anemia.
-Was continued on fludrocortisone.

4. Nausea/vomiting
-KUB without obstruction, otherwise no clear etiology at first.  
Was given PRN antiemetics.
-Troponin on admission negative (?nausea as angina equivalent). 

5. Hypokalemia, hypomagnesemia
-Likely in setting of vomiting and prep-induced diarrhea.
-Monitored and repleted as needed. 

CHRONIC MEDICAL PROBLEMS
1. Ischemic colitis and mesenteric ischemia s/p stenting w/ 
chronic in-stent thrombosis, PAD, CAD: held aspirin and xarelto 
on admission, as CTA initially not concerning for ischemic 
colitis. Continued statin. 
2. COPD: not on any medications
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rivaroxaban 20 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Miconazole Nitrate Vag Cream 2% 1 Appl VG QHS 
6. Multivitamins W/minerals 1 TAB PO DAILY 
7. Fludrocortisone Acetate 0.1 mg PO DAILY 
8. Polyethylene Glycol 17 g PO BID 

 
Discharge Medications:
none, n/a
 
Discharge Disposition:
Expired
 
Facility:
___
 
Discharge Diagnosis:
Acute on chronic anemia
Ischemic/mesenteric colitis s/p stenting w/ chronic instant 
thrombosis 
Abdominal pain, nausea/vomiting 
Septic shock

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
To the family of Ms. ___

___ are so sorry for your loss.  We hope you find peace and 
comfort in knowing that we did everything possible to try to 
help Ms. ___ while she was with us.

-Your ___ team
 
Followup Instructions:
___